US06103910
b) (R)-1-[[3-[2-[(R)-2-Carboxy-pyrrolidin-1-yl]-2-oxo-ethoxy]phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid
A solution of 750 mg (1.41 mmol) (R)-1-[[3-[2-[(R)-2-tert-Butoxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethoxy]-phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester in 6 ml trifluoroacetic acid was stirred for 3 h at room temperature. The solvent was removed in vacuo and the residue suspended in 15 ml ether. The resulting suspension was stirred overnight. Filtration and drying gave 581 mg (98%) of the title compound as a white powder. MS m/e (%): 443 (M+Na+, 32), 438 (M+NH4+, 20), 421 (M+H+, 100).

reactant | (R)-1-[[3-[2-[(R)-2-tert-Butoxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethoxy]-phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester | 1.41 mmol, 750 mg | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(COC1=CC(=CC=C1)OCC(=O)N1[C@H](CCC1)C(=O)OC(C)(C)C)=O | C28H40N2O8
solvent | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (R)-1-[[3-[2-[(R)-2-Carboxy-pyrrolidin-1-yl]-2-oxo-ethoxy]phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid | 581 mg, 98% | C(=O)(O)[C@@H]1N(CCC1)C(COC=1C=C(OCC(=O)N2[C@H](CCC2)C(=O)O)C=CC1)=O | C20H24N2O8
